US08466282B2
Tert-butyl (3S,5R)-3-{{{4-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(piperidin-1-ylcarbonyl)piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-{{{4-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-3-carboxylic acid (205 mg), piperidine (69 μl), HOBt (40 mg) and triethylamine (140 μl) were dissolved in DMF (10 ml), WSC.HCl (134 mg) was added, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, diluted with saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9)-ethyl acetate was concentrated under reduced pressure to give the object product (65 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-{{{4-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-3-carboxylic acid | 205 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2OC)C(=O)O | C29H44N4O7
reactant | piperidine | 69 μl | N1CCCCC1 | C5H11N
reactant | HOBt | 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 134 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 140 μl | C(C)N(CC)CC | C6H15N
product | Tert-butyl (3S,5R)-3-{{{4-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(piperidin-1-ylcarbonyl)piperidine-1-carboxylate | 65 mg | COC1=CC=CC=2N(C(=NC21)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCCCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC | C34H53N5O6
